US07619086B2
Step 2: 4-(1-Aminopropyl)-1-(4-fluorobenzyl)piperidin-2-one
To a solution of 1-(4-fluorobenzyl)-4-(1-nitropropyl)piperidin-2-one (2.8 g, 9.51 mmol) in ethanol (50 mL) was added Raney Nickel (2 grams of a 50% by weight slurry in water). The reaction mixture was shaken under 55 psi of hydrogen. After 24 hours, the reaction mixture was filtered through a bed a celite, then concentrated under vacuum to afford the title compound as a mixture of diastereomers. The first diastereomer has a retention time of 2.05 min and the second diastereomer has a retention time of 2.10 min. The HPLC method was performed on a Hewlett-Packard Zorbax SB-C8 column (75×4.6 mm, 3.5 micron) eluting with 5%-100% CH3CN (0.1% TFA) in H2O (0.1% TFA). ES MS M+1=265.

reactant | 1-(4-fluorobenzyl)-4-(1-nitropropyl)piperidin-2-one | 9.51 mmol, 2.8 g | FC1=CC=C(CN2C(CC(CC2)C(CC)[N+](=O)[O-])=O)C=C1 | C15H19FN2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
solvent | water | O | H2O
product | 4-(1-Aminopropyl)-1-(4-fluorobenzyl)piperidin-2-one | NC(CC)C1CC(N(CC1)CC1=CC=C(C=C1)F)=O | C15H21FN2O
